US06245769B1
5-Amino-4-cyano-[1-(1-ethylpropyl)]-3-methylpyrazole:
11.9 g of 3-pentylhydrazine hydrochloride (Part A), 11.7 g of 1-ethoxyethylidine malononitrile and 26.0 g of triethylamine were dissolved in 100 mL of methanol and refluxed for a period of 20 h. The solvent was stripped in vacuo and partitioned the residue with 100 mL each of water and ethyl acetate and extracted the aqueous layer with 2*50 mL of ethyl acetate. The combined organic extracts were washed with brine, dried and stripped in vacuo to afford 16.8 g of brown oil. The oil was purified by flash column chromatography (1:100 MeOH/dichloromethane eluent) to afford 11.7 g (71%) of desired pyrazole derivative as a white crystalline solid (mp. 117-118° C.). Anal. calcd. for C10H16N4: C, 62.47; H, 8.40; N, 29.14. Found: C, 62.17; H, 8.39; N, 29.18.

reactant | 3-pentylhydrazine hydrochloride | 11.9 g | Cl.CCC(CC)NN
reactant | malononitrile | 11.7 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 26.0 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 mL | CO | CH4O
product | 5-Amino-4-cyano-[1-(1-ethylpropyl)]-3-methylpyrazole | 16.8 g | NC1=C(C(=NN1C(CC)CC)C)C#N | C10H16N4
